US03991046
2-Hydroxyimino-2-(fur-2-yl)acetic acid (1.38 g) mixture was added portionwise to an ice cold solution of dichloroacetyl chloride (2 8 mls.) in dry methylene chloride (14 mls.). After 15 mins stirring a white precipitate was formed which was collected, washed successively with cold dry methylene chloride and petrol (b.p. 40-60°) and dried to yield 2-dichloroacetoxyimino-2-(fur-2-yl)acetic acid (syn-isomer) (1.5 g, 63%).

reactant | 2-Hydroxyimino-2-(fur-2-yl)acetic acid | 1.38 g | ON=C(C(=O)O)C=1OC=CC1 | C6H5NO4
reactant | dichloroacetyl chloride | 8 mls | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 14 mls | C(Cl)Cl | CH2Cl2
product | 2-dichloroacetoxyimino-2-(fur-2-yl)acetic acid | 1.5 g, 63% | ClC(C(=O)ON=C(C(=O)O)C=1OC=CC1)Cl | C8H5Cl2NO5
